### PR TITLE
lib: add a crunch option for naming schemes

### PR DESCRIPTION
**Pull request by corlewis**
Some properties that crunch can be used for have different legacy naming schemes. This commit makes it possible for different instances of crunch to be configured for either prefix or suffix naming.

### CODE REVIEW

**Review by lsf37 — APPROVED** [review]
Looks good from my side. I think this is also already merged, so we should close the PR.

**Comment by corlewis** [comment]
> Looks good from my side. I think this is also already merged, so we should close the PR.

No, this one was actually in a branch and hasn't been merged yet.

File: lib/crunch-cmd.ML [hunk 1]
```diff
@@ -143,11 +145,12 @@ end
...
-    constants to ignore, simp rules, constants to not ignore, unfold rules*)
-    type crunch_cfg = {ctxt: local_theory, prp_name: string, nmspce: string option,
-        wp_rules: (string * thm) list, wps_rules: thm list, igs: string list, simps: thm list,
-        ig_dels: string list, rules: thm list};
+    (* Crunch configuration: theory, property name, name space, wp rules, wps_rules,
+       constants to ignore, simp rules, constants to not ignore, unfold rules *)
+    type crunch_cfg =
+      {ctxt: local_theory, prp_name: string, nmspce: string option,
+       wp_rules: (string * thm) list, wps_rules: thm list, igs: string list,
+       simps: thm list, ig_dels: string list, rules: thm list};
```
Comment (Xaphiosis) [inline lib/crunch-cmd.ML:153]: stared at this for a bit... it's only re-styling, right?

File: lib/crunch-cmd.ML [hunk 2]
```diff
@@ -882,9 +892,12 @@ fun crunch_x atts extra prp_name wpigs consts ctxt =
...
         val ctxt'' = ctxt' delsimps simp_dels;
 
-        val (_, thms) = funkyfold (crunch {ctxt = ctxt'', prp_name = prp_name, nmspce = nmspce,
-              wp_rules = wp_rules, wps_rules = wps_rules, igs = igs, simps = simps,
-              ig_dels = ig_dels, rules = rules} pre' extra' [])
+        val crunch_cfg =
+          {ctxt = ctxt'', prp_name = prp_name, nmspce = nmspce, wp_rules = wp_rules,
+           wps_rules = wps_rules, igs = igs, simps = simps, ig_dels = ig_dels,
+           rules = rules}
+        val (_, thms) =
```
Comment (Xaphiosis) [inline lib/crunch-cmd.ML:899]: doesn't the following fit on one line? strange to stair-step it like this

File: proof/refine/ARM_HYP/Ipc_R.thy [hunk 3]
```diff
@@ -1563,8 +1563,8 @@ lemma makeArchFaultMessage_corres:
     apply (rule corres_split_eqr[OF _ asUser_getRestartPC_corres])
       apply (rule corres_split_eqr[OF _ corres_machine_op])
          apply (rule corres_trivial, simp)
-        apply (rule corres_underlying_trivial[OF addressTranslateS1CPR_no_fail])
-       apply (wp+, auto)
+        apply (rule corres_underlying_trivial)
+        apply (wp+, auto)
```
Comment (Xaphiosis) [inline proof/refine/ARM_HYP/Ipc_R.thy:1567]: These changes to ARM_HYP Refine appear in a commit tagged "lib proof:", which is not a tag I remember seeing before

File: lib/crunch-cmd.ML (hunk 1 above)
Comment (corlewis) [reply lib/crunch-cmd.ML:153]: Yeah, it's just a re-styling now.

My original implementation of this option changed the type, and when I undid the rest of those changes I decided that this style is more consistent with the rest of the file. Apologies for any time you spent staring at it.

File: proof/refine/ARM_HYP/Ipc_R.thy (hunk 3 above)
Comment (Xaphiosis) [reply proof/refine/ARM_HYP/Ipc_R.thy:1567]: Looking over the history, I see that `lib proof:` has existed before, but it's confusing, if we're going that way I'd vote for `lib+proof:`

File: lib/crunch-cmd.ML (hunk 2 above)
Comment (corlewis) [reply lib/crunch-cmd.ML:899]: True, it does now that the cfg is a separate line.

File: proof/refine/ARM_HYP/Ipc_R.thy (hunk 3 above)
Comment (corlewis) [reply proof/refine/ARM_HYP/Ipc_R.thy:1567]: In my mind I've changed lib to make `no_fail` use prefix-naming, and then updated all of the different proofs for anything that broke. While it turns out that this was the only change needed, I wouldn't want to label it specifically `ARM_HYP refine` since it conceptually isn't specific to just that.

Comment (corlewis) [reply proof/refine/ARM_HYP/Ipc_R.thy:1567]: Oh, I'd also be happy with lib+proof.

**Review by Xaphiosis — APPROVED** [review]
Thanks. Looks good now, don't forget to squash.

**Comment by Xaphiosis** [comment]
Good to go from my side. Note to self (@Xaphiosis) and @lsf37 : when this gets merged, the aarch64 branch needs an update for Machine_AI whenever it's rebased else we'll get a failure.
